*********************************************************************
*  (C) Copyright 2013-2017 Toshiba Electronic Devices & Storage Corporation
*  Date                 : 08/11/2013
*  File Name            : SSM3K376R.lib
*  Part Number          : SSM3K376R
*  Parameter Ver.       : Ver.2
*  Simulator            : PSpice
*  Model Call Name      : NMOS_SSM3K376R
*  TNOM                 : 25 degree
*  Pin Assign           : 1=Drain 2=Gate 3=Source
*  Operation of this model has been verified only on the OrCAD.
*********************************************************************
.SUBCKT NMOS_SSM3K376R 1 2 3
M0 1 22 3 3
+ smsmosfet
+ L = 4E-006
+ W = 0.2
+ AD = 3E-007
+ AS = 3E-007
+ PD = 0.6
+ PS = 0.6
D0 3 1
+ DDS1
D1 3 1
+ DDS2
D2 2 10
+ DGS1
D3 3 10
+ DGS2
R1 10 3 1E+009
R2 10 2 1E+009
RG 2 22 7
.MODEL smsmosfet NMOS
+ LEVEL = 7
+ MOBMOD = 1
+ CAPMOD = 3
+ NOIMOD = 1
+ TOX = 1.5E-008
+ XJ = 1.5E-007
+ NCH = 1.7E+017
+ NGATE = 0
+ RSH = 0
+ TNOM = 25
+ VTH0 = 0.66084
+ VOFF = 0
+ NFACTOR = 1.9413
+ U0 = 6935.7971
+ K1 = 0.5
+ K2 = 0
+ K3 = 80
+ K3B = 0
+ W0 = 2.5E-006
+ NLX = 1.74E-007
+ DVT0 = 2.2
+ DVT1 = 0.53
+ DVT2 = -0.032
+ DVT0W = 0
+ DVT1W = 5.3E+006
+ DVT2W = -0.032
+ DWG = 0
+ DWB = 0
+ UA = 5.4836e-09
+ UB = 5.87E-019
+ UC = -4.56E-011
+ VSAT = 112211
+ A0 = 1.5195
+ AGS = -1.0748
+ B0 = 0
+ B1 = 0
+ KETA = -0.047
+ A1 = 0
+ A2 = 1
+ DELTA = 0.13637
+ RDSW = 5976.97
+ PRWG = 0
+ PRWB = 0
+ WR = 1
+ CDSC = 0.00024
+ CDSCD = 0
+ CDSCB = 0
+ CIT = 0
+ ETA0 = 0.03434
+ ETAB = -0.07
+ DSUB = 0.56
+ PCLM = 0.52557
+ PDIBLC1 = 0.39
+ PDIBLC2 = 8.7157e-05
+ PDIBLCB = 0
+ DROUT = 0.56
+ PSCBE1 = 0
+ PSCBE2 = 0
+ PVAG = 0
+ ALPHA0 = 0
+ ALPHA1 = 0
+ BETA0 = 30
+ NJ = 1
+ JS = 2.62E-007
+ XPART = 0
+ CGSO = 7.2187e-09
+ CGDO = 5.4145e-11
+ CGBO = 1E-012
+ CGDL = 4.8303e-09
+ CGSL = 2.6869e-11
+ CKAPPA = 7.48
+ CF = 1E-012
+ CLC = 1E-007
+ CLE = 0.6
+ VOFFCV = 0
+ NOFF = 1
+ DLC = 0
+ ACDE = 1
+ MOIN = 15
+ CJ = 1.8753e-06
+ CJSW = 1E-012
+ CJSWG = 1E-012
+ PB = 0.18014
+ PBSW = 1
+ PBSWG = 1
+ MJ = 0.01569
+ MJSW = 0.33
+ MJSWG = 0.33
+ AF = 1
+ EF = 1
+ KF = 0
+ UTE = -0.05
+ KT1 = -0.27672
+ KT1L = 0
+ KT2 = 0.022
+ UA1 = 4.31E-009
+ UB1 = -7.61E-018
+ UC1 = -5.6E-011
+ AT = 3.3E+004
+ PRT = 5023.3325
+ XTI = 3
+ TCJ = 0
+ TPB = 0
+ TCJSW = 0
+ TPBSW = 0
+ TCJSWG = 0
+ TPBSWG = 0
+ DWC = 0.090017
.MODEL DDS1 D
+ TNOM = 25
+ IS = 8.922e-08
+ RS = 0.14359
+ N = 1.262
+ CJO = 1.5623e-11
+ VJ = 0.60264
+ M = 0.45519
+ XTI = -13
+ BV = 30
+ IBV = 0.001
.MODEL DDS2 D
+ TNOM = 25
+ IS = 8.922e-08
+ RS = 0.14359
+ N = 1.262
+ CJO = 6.7295e-11
+ VJ = 1.0723
+ M = 0.90509
+ XTI = -13
.MODEL DGS1 D
+ TNOM = 25
+ IS = 1E-015
.MODEL DGS2 D
+ TNOM = 25
+ IS = 1E-015
.ENDS
